.title kicad schematic

.include pmos18.lib
.include nmos18.lib
m6 qmb net-_m3-pad1_ vdd vdd pfet W=0.54u L=0.18u M=1
m5 qmb net-_m3-pad1_ gnd gnd nfet W=0.27u L=0.18u M=1
m10 qm qmb vdd vdd pfet W=0.54u L=0.18u M=1
m8 qm qmb gnd gnd nfet W=0.27u L=0.18u M=1
m14 qsb net-_m11-pad1_ vdd vdd pfet W=0.54u L=0.18u M=1
m13 qsb net-_m11-pad1_ gnd gnd nfet W=0.27u L=0.18u M=1
m18 qs qsb vdd vdd pfet W=0.54u L=0.18u M=1
m17 qs qsb gnd gnd nfet W=0.27u L=0.18u M=1
m15 net-_m11-pad1_ clk qs vdd pfet W=0.54u L=0.18u M=1
m16 net-_m11-pad1_ clkb qs gnd nfet W=0.27u L=0.18u M=1
m2 clkb clk vdd vdd pfet W=0.54u L=0.18u M=1
m1 clkb clk gnd gnd nfet W=0.27u L=0.18u M=1
v3 vdd gnd  dc 1.8
m9 net-_m3-pad1_ clk qm gnd nfet W=0.27u L=0.18u M=1
m7 net-_m3-pad1_ clkb qm vdd pfet W=0.54u L=0.18u M=1
v2  clk gnd pulse(0 1.8 0n 0.5n 0.5n 10n 20n)
m12 net-_m11-pad1_ clkb qm vdd pfet W=0.54u L=0.18u M=1
v1  din gnd pwl(0n 0 0.5n 0 30n 0 35n 0 35.5n 1.8 75n 1.8 75.5n 0 120n 0)
m4 net-_m3-pad1_ clk din vdd pfet W=0.54u L=0.18u M=1
m3 net-_m3-pad1_ clkb din gnd nfet W=0.27u L=0.18u M=1
m11 net-_m11-pad1_ clk qm gnd nfet W=0.27u L=0.18u M=1
* u1  clk plot_v1
* u2  din plot_v1
* u4  qmb plot_v1
* u5  qm plot_v1
* u6  qsb plot_v1
* u7  qs plot_v1
* u3  clkb plot_v1
.tran 10e-09 120e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(din)
plot v(qmb)
plot v(qm)
plot v(qsb)
plot v(qs)
plot v(clkb)
.endc
.end
